*******************************************************************************
*****************************************************************
* NXP BUK7Y18_75B
*
* Polarity N-Channel
* Ratings 75V/1.80E-02OHMS/20A
*
* Date Created Tue Feb  9 00:26:32 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y18_75B DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 1500000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0103808526054309 TC=0.00853641478151947,-1.56280582966533e-05
RBD 9 4 0.00125565955933874 TC=0.00853641478151947,-1.56280582966533e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1000000000000
CGS 2 6 1.5e-09
RG 1 2 1.20060161358437

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -25	
+ -20	
+ -10	1512
+ -5	1502
+ -2	1300
+ -1	1035
+ -0.5	894
+ -0.2	813
+ -0.1	786
+ 0	757
+ 0.1	719
+ 0.2	680
+ 0.5	551
+ 1	389
+ 2	289
+ 5	204
+ 10	158
+ 20	123
+ 25	113



.MODEL MINT NMOS(Vto=3.6552498759201 Kp=4.6794e+01 Nfs=880000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=84.00 Ibv=2.50E-04 Rs=1E-6 Is=9.81267821442786e-13
+ N=1 M=0.51 VJ=0.68 Fc=0.5 Cjo=1.025e-09 Tt=2.77e-08)

.ENDS

*******************************************************************************
